US04559402
Preparation of 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine
Ten g of 2-methyl-3-nicotinoyl pyrazolo[1,5-a]pyridine was dissolved in 150 ml of absolute ethanol and 2 g of 10% palladium carbon was added to the solution. The mixture was hydrogenated in an autoclave at 13 atm. of hydrogen at a temperature in the range of 55° to 58° C. for 3 hours. The mixture was filtered and the filtrate was evaporated under reduced pressure in order to remove the solvent. The residue was recrystallized from ethyl acetate to afford the title compound in yield of 8.5 g, mp 207°-208° C.

reactant | 2-methyl-3-nicotinoyl pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CN=CC=C1)=O | C14H11N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium carbon | 2 g | [C].[Pd]
product | 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CNCCC1)=O | C14H15N3O
